US05872137
To a solution of 0.30 g of 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenol, phenol, 0.16 g of 3-chlorophenetyl alcohol and 0.27 g of triphenylphosphine dissolved in 10 ml of tetrahydrofuran was added dropwise a solution of 0.21 g of diisopropylazodicarboxylate dissolved in 5 ml of tetrahydrofuran, while stirring at room temperature. After siring at room temperature for 24 hours, the reaction mixture was concentrated to obtain a residue. The residue was subjected to silica gel chromatography, which afforded 0.36 g of 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(2-(3-chlorophenyl)ethoxy)benzene (81% yield), nD26.0 1.5897.

reactant | 2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenol | 0.30 g | ClC1=C(C(=CC(=C1)OCC=C(Cl)Cl)Cl)O | C9H6Cl4O2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | 3-chlorophenetyl alcohol | 0.16 g | ClC=1C=C(C=CC1OCC)O | C8H9ClO2
reactant | triphenylphosphine | 0.27 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropylazodicarboxylate | 0.21 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3,5-dichloro-1-(3,3-dichloro-2-propenyloxy)-4-(2-(3-chlorophenyl)ethoxy)benzene | 0.36 g, 81% yield | ClC=1C=C(C=C(C1OCCC1=CC(=CC=C1)Cl)Cl)OCC=C(Cl)Cl | C17H13Cl5O2
